US08492372B2
2-({[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}AMINO)ETHANOL
Preparation according to Example 22 using 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (30 mg, 0.10 mmol), 2-aminoethanol (0.5 ml, 24.9 mmol) and EtOH (1.0 ml). 1H-NMR (400 MHz, MeOH): δ 7.51 (1H, dd, J1 8.0 Hz, J2 1.6 Hz), δ 7.41 (1H, d, J 1.2 Hz), δ 7.32 (1H, d, J 8.0 Hz), δ 5.27 (1H, t, J 4.8 Hz), δ 5.09 (2H, dd, J1 50.0 Hz, J2 15.6 Hz), δ 3.68 (2H, t, J 5.6 Hz), δ 3.11 (3H, s), δ 3.02 (2H, t, J 4.0 Hz), δ 2.82 (2H, t, J 5.6 Hz).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.10 mmol, 30 mg | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | 2-aminoethanol | 24.9 mmol, 0.5 ml | NCCO | C2H7NO
solvent | EtOH | 1.0 ml | CCO | C2H6O
product | 2-({[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}AMINO)ETHANOL | CS(=O)(=O)C=1C=CC2=C(OC(OC2)CNCCO)C1 | C12H17NO5S
